US09428509B2
2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
A 50-L jacketed reactor was flushed with nitrogen and charged with 2,4-dichloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (1437 g, 4578 mmol), anhydrous DMF (5.75 L) and SEM-Cl (1145 g, 6867 mmol). The reaction solution was cooled to 0-5° C. and treated with sodium hydride (60% dispersion in mineral oil, 275 g, 6867 mmol) portion wise over 2 h. The mixture was allowed to warm to room temperature over 1 h, after which time TLC analysis indicated complete reaction. The reaction mixture was treated with saturated aqueous NH4Cl (4.5 L), diluted with water (14 L), and stirred at room temperature for 16 h to give a brown precipitate. The precipitate was filtered and washed with water (3×3 L) and hexane (2×3 L) to give 2065 g of a crude brown solid. The crude solid was dissolved in DCM (3 L), and the solution was filtered to remove insoluble material and concentrated to a solid. The solid was triturated twice from MeOH/water (4 L, 5:1) and dried under reduced pressure at 45° C. for 64 h to afford 1100 g (Yield: 54%) of the title compound as a beige solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.14 (s, 1H), 5.54 (s, 2H), 3.52 (t, J=7.94 Hz, 2H), 0.84 (t, J=7.94 Hz, 2H), −0.08 (s, 9H). MS (ESI) m/z 443.9 [M+1]+.

reactant | 2,4-dichloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 4578 mmol, 1437 g | ClC=1N=C(C2=C(N1)NC=C2I)Cl | C6H2Cl2IN3
reactant | SEM-Cl | 6867 mmol, 1145 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | sodium hydride | 6867 mmol, 275 g | [H-].[Na+]
reactant | NH4Cl | 4.5 L | [NH4+].[Cl-]
solvent | water | 14 L | O | H2O
solvent | DCM | 3 L | C(Cl)Cl | CH2Cl2
solvent | DMF | 5.75 L | CN(C)C=O | C3H7NO
product | 2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1100 g, Yield: 54% | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
